US07767678B2
4-[(2,4-dichloro-5-methoxyphenyl)amino]-6-methoxy-7-[3-(4-methyl-1-piperazinyl)propoxy]-3-quinolinecarbonitrile methanolate, Form VI (1.0 g) was heated with stirring for 5 hours at 95° C. in 12 mL of water. The mixture was cooled to room temperature and filtered. The cake was washed with 2 mL water and vacuum dried at 45° C. to give 0.9 g of of 4-[(2,4-dichloro-5-methoxyphenyl)amino]-6-methoxy-7-[3-(4-methyl-1-piperazinyl)propoxy]-3-quinolinecarbonitrile monohydrate, Form I by XRD scans.

reactant | 4-[(2,4-dichloro-5-methoxyphenyl)amino]-6-methoxy-7-[3-(4-methyl-1-piperazinyl)propoxy]-3-quinolinecarbonitrile methanolate | C[O-].ClC1=C(C=C(C(=C1)Cl)OC)NC1=C(C=NC2=CC(=C(C=C12)OC)OCCCN1CCN(CC1)C)C#N
solvent | water | 12 mL | O | H2O
product | 4-[(2,4-dichloro-5-methoxyphenyl)amino]-6-methoxy-7-[3-(4-methyl-1-piperazinyl)propoxy]-3-quinolinecarbonitrile monohydrate | O.ClC1=C(C=C(C(=C1)Cl)OC)NC1=C(C=NC2=CC(=C(C=C12)OC)OCCCN1CCN(CC1)C)C#N | InChI=1S/C26H29Cl2N5O3.H2O/c1-32-6-8-33(9-7-32)5-4-10-36-25-13-21-18(11-24(25)35-3)26(17(15-29)16-30-21)31-22-14-23(34-2)20(28)12-19(22)27;/h11-14,16H,4-10H2,1-3H3,(H,30,31);1H2
